US06344468B1
2-(2-(2-Fluorophenyl)ethyl)-3-hydroxy-3-phenyl-2,3-dihydroisoindol-1-one
At room temperature, 0.31 g (2.2 mmol) of 2-(2-fluorophenyl)ethylamine and 0.22 g (2.2 mmol) of triethylamine in 10 ml of absolute toluene were admixed dropwise with a solution of 0.49 g (2.0 mmol) of 2-benzoylbenzoyl chloride in 10 ml of absolute toluene. The reaction mixture was heated under eflux for 3 h. After cooling, the turbid solution was admixed with 20 ml of water. The organic phase was separated off, diluted with 20 ml of toluene and washed three times with 1 M hydrochloric acid. To complete the extraction, the combined aqueous phases were extracted with diethyl ether. The combined organic phases were washed three times with 1 M aqueous sodium hydroxide solution and once with saturated sodium chloride solution, dried over sodium sulfate and evaporated to dryness using a rotary evaporator. The residue was recrystallized from toluene. The resulting colorless crystalline product was filtered off with suction and dried. Yield: 53 g. M.p.: 208° C.

reactant | 2-(2-fluorophenyl)ethylamine | 2.2 mmol, 0.31 g | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | triethylamine | 2.2 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | 2-benzoylbenzoyl chloride | 2.0 mmol, 0.49 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)Cl)C=CC=C1 | C14H9ClO2
reactant | water | 20 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-(2-Fluorophenyl)ethyl)-3-hydroxy-3-phenyl-2,3-dihydroisoindol-1-one | FC1=C(C=CC=C1)CCN1C(C2=CC=CC=C2C1(C1=CC=CC=C1)O)=O | C22H18FNO2
